US06107301
To a mixture of N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-hydroxymethyl-6-methylpyrimidinamine (1.57 g, 4.3 mmol), triethylamine (2.5 mL, 17 mmol) and dichloromethane (15 mL) at 0° C. under a nitrogen atmosphere was added methanesulfonyl chloride (0.54 g, 4.7 mmol) dropwise and the reaction mixture was stirred at 0° C. for 1.5 h. It was then washed successively with an ice-cold 1N HCl solution, a saturated NaHCO3 solution and a saturated NaCl solution. Drying the methylene chloride solution over MgSO4, filtration and removal of solvent in vacuo gave N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-methanesulfonyloxymethyl-6-methylpyrimidinamine as a clear colorless oil (1.6 g): NMR (CDCl3, 300 MHz); 7.5 (d, 1H, J=1), 7.25-7.1 (m, 2H), 6.5 (s, 1H), 5.05-4.9 (br s, 2H), 4.3-4.1 (m, 1H), 3.8-3.6 (m, 1H), 3.0-2.85 (m, 1H), 2.8-2.6 (br s, 3H), 2.5-2.25 (br m, 3H), 1.3 (d, 6H, J=8), 1.2 (t, 3H, J=8); CI-MS: 442, 444 (M+H).

reactant | N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-hydroxymethyl-6-methylpyrimidinamine | 4.3 mmol, 1.57 g | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=N1)CO)C)CC | C17H22BrN3O
reactant | triethylamine | 17 mmol, 2.5 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.7 mmol, 0.54 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-(2-bromo-4-(1-methylethyl)phenyl)-N-ethyl-4-methanesulfonyloxymethyl-6-methylpyrimidinamine | 1.6 g | BrC1=C(C=CC(=C1)C(C)C)N(C1=NC(=CC(=N1)COS(=O)(=O)C)C)CC | C18H24BrN3O3S
